US06933311B2
4-(8-azabicyclo[3.2.1]oct-8-yl)-2-chlorobenzylamine
4-(8-Azabicyclo[3.2.1]oct-8-yl)-2-chlorobenzonitrile in THF (50 mL) was treated with solid LAH (0.47 g, 12 mmol) at 0° C. portionwise. The mixture was heated at reflux for 1 hour, allowed to cool to 0° C., and quenched by addition of (Na2SO4 10H2O). The mixture was stirred for 30 minutes, filtered, and the filtrate concentrated under reduced pressure. The residue was purified by flash chromatography eluting with 5% to 10% MeOH/CH2Cl2 to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ 7.27 (d, 1H, J=8.6 Hz), 6.74 (d, 1H, J=2.4 Hz), 6.70 (dd, 1H, J=8.6, 2.4 Hz), 4.16 (bs, 2H), 3.65 (s, 2H), 2.05 (bs, 2H), 1.97 (m, 2H), 1.88-1.65 (m, 5H), 1.40 (m, 1H), 1.23 (m, 2H); MS (ESI) 234 (M−NH2)+.

reactant | 4-(8-Azabicyclo[3.2.1]oct-8-yl)-2-chlorobenzonitrile | C12CCCC(CC1)N2C2=CC(=C(C#N)C=C2)Cl | C14H15ClN2
reactant | LAH | 12 mmol, 0.47 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-(8-azabicyclo[3.2.1]oct-8-yl)-2-chlorobenzylamine | C12CCCC(CC1)N2C2=CC(=C(CN)C=C2)Cl | C14H19ClN2
